US07858640B2
2-[4-(morpholine-4-sulfonyl)benzyl]-3-oxopentanoic Acid Methyl Ester
A suspension of potassium tert-butoxide (0.26 g) in anhydrous tetrahydrofuran (40 mL) at 0° C. was treated with a mixture of tert-butanol (1.0 mL) and 3-oxopentanoic acid methyl ester (0.25 mL). The mixture was stirred at 0° C. for 45 minutes and then a solution of 4-(4-bromomethylbenzenesulfonyl)morpholine (0.53 g) in tetrahydrofuran (10 mL) was added and the resulting mixture warmed to room temperature over 1 hour and then stirred at this temperature for 17 hours. The mixture was concentrated under reduced pressure and the residue diluted with water and extracted with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:1 by volume) to afford title compound, 0.41 g.

reactant | potassium tert-butoxide | 0.26 g | CC(C)([O-])C.[K+]
reactant | tert-butanol | 1.0 mL | C(C)(C)(C)O | C4H10O
reactant | 3-oxopentanoic acid methyl ester | 0.25 mL | COC(CC(CC)=O)=O | C6H10O3
reactant | 4-(4-bromomethylbenzenesulfonyl)morpholine | 0.53 g | BrCC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C11H14BrNO3S
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[4-(morpholine-4-sulfonyl)benzyl]-3-oxopentanoic Acid Methyl Ester | COC(C(C(CC)=O)CC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1)=O | C17H23NO6S
